US05912378
1. Preparation of 3-Chloro-2,2-dimethyl-1-trimethylsilyloxy-propane at 150° C., Lot 9277
A 500 milliliter, three-necked flask was fitted with a large magnetic stir bar, a reflux condenser, a thermocouple attached to a THERM-O-WATCH®, a 125 ml. pressure-equalizing addition funnel, and an argon inlet. This apparatus was dried in an oven overnight at 125° C., assembled hot, and allowed to cool to room temperature in a stream of argon. The flask was charged with 122.58 grams (1.00 mole, 1.00 equivalent) of 3-chloro-2,2-dimethyl-1-propanol. Hexamethyldisilazane, 83.24 grams (0.516 mole, 0.516 equivalent), was then added rapidly dropwise via the addition funnel. Trimethylsilylchloride catalyst, one ml., was added via a syringe. An immediate exotherm of 21.7° C. was observed. A white precipitate also formed when the catalyst was added. The reaction mixture was heated to 150° C. with a heating mantle, controlled by the THERM-O-WATCH®. After ninety minutes at this temperature, all the solids had dissolved. The heat source was removed. The reaction mixture was analyzed by Gas Chromatography (GC), thirty meter X 0.53 mm AT-1 column. All the starting 3-chloro-2,2-dimethyl-1-propanol had been consumed, with the formation of a single, higher-boiling component. After the reaction mixture had cooled to room temperature, it was transferred to a medium porosity sintered glass filter. The filtrate was collected in a dry 250 ml. bottle. This afforded a clear, very pale yellow solution, yield=188.84 grams (97.0% yield). GC assay=97.5% desired product, and 2.5% unknowns.

reactant | 3-chloro-2,2-dimethyl-1-propanol | 1.00 mole, 122.58 grams, 1.00 equivalent | ClCC(CO)(C)C | C5H11ClO
reactant | Hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
catalyst | Trimethylsilylchloride | C[Si](C)(C)Cl | C3H9ClSi
product | 3-Chloro-2,2-dimethyl-1-trimethylsilyloxy-propane | 97.5% | ClCC(CO[Si](C)(C)C)(C)C | C8H19ClOSi
